US07384945B2
{4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-pyridin-4-yl-methanone
80 mg of 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole (0.16 mmol) and 0.06 ml TEA (0.44 mmol) were dissolved in 1.5 ml dichloromethane and treated with 36 mg isonicotinic acid chloride hydrochloride (0.2 mmol). After 22 h of stirring at rt, the reaction mixture was diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 86 mg yellow solid which was purified by column chromatography (9.5 g silicagel, dichloromethane/methanol 24:1). 46 mg product as a light yellow solid (48%) was obtained. MS (ISP) 606.3 (M+H)+.

reactant | 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole | 0.16 mmol, 80 mg | FC1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1N1CCNCC1 | C26H24F4N4O2
reactant | isonicotinic acid chloride hydrochloride | 0.2 mmol, 36 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | {4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-pyridin-4-yl-methanone | 46 mg, 48% | FC=1C(=CC2=C(N=C(N2CC2=CC=C(C=C2)OC(F)(F)F)COC2=CC=CC=C2)C1)N1CCN(CC1)C(=O)C1=CC=NC=C1 | C32H27F4N5O3
